US06521754B2
Tetrahydro-pyran-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide
To a solution of 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol (100 mg, 0.4 mmol) in tetrahydrofurane (2 ml) were subsequently added N-ethyl-diisopropylamine (194 □1, 1.1 mmol) and tetrahydropyran-4-carbonyl chloride (77 mg, 0.52 mmol, dissolved in 0.5 ml tetrahydrofurane) and the mixture refluxed for 3 h. The mixture was then cooled to 0° C., methanol (0.4 ml) was added and the mixture slowly warmed to 20° C. Then the mixture was evaporated to dryness, dichloromethane was added (3 ml) and extracted with saturated aqueous sodium carbonate. After back extraction of the aqueous phase with two portions of dichloromethane (3 ml), the combined organic phases were dryed with Na2SO4 and the solvent evaporated. The crude product was was then chromatographed over SiO2, eluting with CH2Cl2/MeOH 98:2, the product fractions were pooled and the solvent evaporated, to afford the title compound as a beige powder (142 mg, 76% yield), MS: m/e=378(M+H+).

reactant | 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol | 0.4 mmol, 100 mg | NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | C12H15N3O2S
reactant | N-ethyl-diisopropylamine | 1.1 mmol | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tetrahydropyran-4-carbonyl chloride | 0.52 mmol, 0.5 ml, 77 mg | O1CCC(CC1)C(=O)Cl | C6H9ClO2
reactant | methanol | 0.4 ml | CO | CH4O
solvent | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
product | Tetrahydro-pyran-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | 142 mg, 76% yield | COC1=CC=C(C2=C1N=C(S2)NC(=O)C2CCOCC2)N2CCOCC2 | C18H23N3O4S
